US09302998B2
STEP C: [3-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-3H-[1,2,3]triazol-4-yl]-(4-morpholin-4-yl-benzyl)-carbamic acid tert-butyl ester
A solution of 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene (240 mg, 0.64 mmol) and t-butyl ethynyl(4-morpholinobenzyl)carbamate (185 mg, 0.58 mmol) in DMF (2.5 ml) was degassed at RT by means of three vacuum-nitrogen cycles before adding [Cp*RuCl]4 (32 mg, 0.029 mmol). The reaction mixture was stirred at RT until completion (i.e., monitored by TLC). AcOEt and H2O were then added. The organic phase was extracted four times with AcOEt, washed with water (three times) and brine (once) and dried over Na2SO4. The solvent was removed under reduced pressure and the reaction mixture was purified by column chromatography (PE/AcOEt:60/40). The title compound was obtained as an oil.

reactant | 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene | 0.64 mmol, 240 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)N=[N+]=[N-])C(C)C | C23H23N3O2
reactant | t-butyl ethynyl(4-morpholinobenzyl)carbamate | 0.58 mmol, 185 mg | C(#C)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)N1CCOCC1 | C18H24N2O3
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | [3-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-3H-[1,2,3]triazol-4-yl]-(4-morpholin-4-yl-benzyl)-carbamic acid tert-butyl ester | Yield: 56% | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)N1CCOCC1)C=1N(N=NC1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C41H47N5O5
